Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
STEMI
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ old man with history of 
hyperlipidemia, smoker who presents with chest pain, found to 
have STEMI. Patient reports that day prior to presentation, he 
started having sudden onset chest pain, described as burning 
sensation across his chest wall along the nipple line which felt 
like heartburn. It did not radiate anywhere and he had no 
diaphoresis, nausea, or shortness of breath. He took ranitidine 
which relieved his pain and was able to go on a long strenuous 
walk. However, last night when he went to sleep, he began to 
have recurrent chest pain, and woke up hourly due to same chest 
pain. He woke up this morning with the pain extending also to 
his bilateral triceps so called his PCP office, did not receive 
a call back. After waiting four hours, he then went over to the 
PCP office, reports he waited for about 90 minutes, and had an 
EKG and then sent over to ___ ED. His EKG showed inferior ST 
elevations. In the ambulance he was given asa 325, Plavix 600 
mg. At ___ ED, VS: 153/78, HR 69 SR, 98% on room air, 
afebrile, RR ___. He was started on heparin gtt with bolus, 
continued to have chest pain but ___ cath lab was unable to 
accommodate him so was transferred to ___ where was taken to 
the cath lab.  
 In cath lab, patient found to have 100% occluded RCA. Initially 
attempted radial access but was unsuccessful due to spasm so 
patient had right femoral groin access. Two DES were placed 
without complication. Patient given Tifofiban, continued on ASA, 
Plavix. The left side had minor disease, diag 80-90%. He 
developed STE again while cathing the left side so the 
coronaries were reevaluated with stents patent. He was given 
tirofiban and transferred to CCU with the bag running.  
 On arrival, patient denies any chest pain, shortness of breath, 
nausea. Feels fine without other complaints.  
 REVIEW OF SYSTEMS:  
 (+) per HPI  
 
Past Medical History:
HLD
smoking
 
Social History:
___
Family History:
Father: Had first MI at age ___ and died at age ___ of MI  
 Mother: Died at age ___ years old, no cardiac history  
 Brother: One brother alive at age ___ had CABG at age ___ 
Another brother had MI at age ___ and then died of abd aneurysm 
in his ___, paternal grandfather w/MI age ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.2 77 132/63 19 99% RA  
 Weight: 89-kg  
 Gen: No acute distress, lying in bed, conversant  
 HEENT: EOMI, PERRL, oropharynx is clear  
 NECK: No JVP elevation, supple  
 CV: RRR, no m/r/g  
 LUNGS: CTAB  
 ABD: ND, soft, NTTP  
 EXT: WWP without edema, 1+ bilateral DP  
 SKIN: Dry, no rashes, R groin dressing c/d/I, soft, intact 
pulses, no bruits auscultated 

DISCHARGE PHYSICAL EXAM:
VS: 97.8, 115/64, 75, 18, 98%RA
GENERAL: well appearing man lying in bed, comfortable and in 
NAD. Oriented x3. Mood, affect appropriate.  
HEENT: EOMI. MMM. Sclera non icteric or injected.  
NECK: Supple without elevated JVP
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: mild bibasilar crackles. 
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. DP pulses +2 bilaterally.   
 
Pertinent Results:
ADMISSION LABS:
___ 09:53PM BLOOD WBC-8.8 RBC-4.49* Hgb-13.5* Hct-40.0 
MCV-89 MCH-30.1 MCHC-33.8 RDW-13.3 RDWSD-43.8 Plt ___
___ 09:53PM BLOOD ___ PTT-54.6* ___
___ 09:53PM BLOOD Glucose-149* UreaN-12 Creat-0.8 Na-137 
K-3.6 Cl-101 HCO3-24 AnGap-16
___ 09:53PM BLOOD ALT-35 AST-129* AlkPhos-71 TotBili-0.6
___ 06:00PM BLOOD cTropnT-0.68*
___ 09:53PM BLOOD CK-MB-126* cTropnT-4.47*
___ 09:53PM BLOOD Calcium-8.6 Phos-2.1* Mg-1.9 Cholest-214*
___ 09:53PM BLOOD Triglyc-90 HDL-42 CHOL/HD-5.1 
LDLcalc-154*

IMAGING / STUDIES:
EKG ___
Sinus rhythm. Inferior wall myocardial infarction with ST 
segment elevations,
possibly acute. Clinical correlation is suggested. No previous 
tracing
available for comparison.
 Intervals                               ___
RatePRQRSQTQTc (___)  ___                 72-___

CARDIAC CATHETERIZATION ___
IMPRESSION:
- Normal left main
- LCX with 70% mid and 70% OM
- LAD 60% mid and 70% diagonal
- RCA occluded distally with 60% mid, both stented with DES with 
0% residual and normal flow.

ECHO ___
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses and 
cavity size are normal. There is mild regional left ventricular 
systolic dysfunction with hypokinesis of the basal inferior and 
inferior lateral walls with an EF of 50-55%. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 
IMPRESSION: Mild regional left ventricular systolic dysfunction 
with hypokinesis of the basal inferior and inferior lateral 
walls with an LVEF of 50% consistent with known RCA STEMI. No 
clinically significant valvular disease. Indeterminate pulmonary 
artery systolic pressure. 

ABDOMINAL AORTIC US
FINDINGS: 
The aorta measures 2.1 cm in the proximal portion, 2.7 x 2.8 x 
2.7 cm in mid
portion and 1.6 cm in the distal abdominal aorta.  There is 
moderate calcified
atherosclerotic plaque.
Wall-to-wall color flow is seen within the aorta with 
appropriate arterial
waveforms.
The right common iliac artery measures 1.6 cm and the left 
common iliac artery
measures 1.4 cm.
The right kidney measures 11 cm and the left kidney measures 
12.1 cm. Limited
views of the kidneys are unremarkable without hydronephrosis.
IMPRESSION: 
Fusiform dilatation of the mid abdominal aorta measuring up to 
2.8 cm.
RECOMMENDATION(S):  Followup with ultrasound in ___ years.

DISCHARGE LABS:
___ 04:19AM BLOOD %HbA1c-5.2 eAG-103
___ 06:00AM BLOOD WBC-7.9 RBC-4.49* Hgb-13.5* Hct-41.1 
MCV-92 MCH-30.1 MCHC-32.8 RDW-13.2 RDWSD-44.2 Plt ___
___ 06:00AM BLOOD ___ PTT-31.0 ___
___ 06:00AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-138 
K-4.2 Cl-103 HCO3-25 AnGap-14
___ 04:19AM BLOOD cTropnT-2.01*
___ 06:00AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.___ old man with history of hyperlipidemia, smoker who 
presents with chest pain, found to have STEMI.

STEMI: Patient presented with chest pain mistaken for 
indigestion. Found to have EKG changes at ___'s office and 
presented to ___, put on heparin drip and transferred to ___ 
because of overflow at ___. He was found to have an inferior 
STEMI with elevated trops to 4.47. He was taken to the cath lab 
where he got DES x2 to his RCA suspected to be the culprit 
vessel. He also had 60-70% left sided disease but no 
intervention was done at this time. He recovered without 
complication and ECHO showed mild wall motion abnormality 
consistent with inferior infarct with EF 50-55%. He was started 
on aspirin 81, atorvastatin 80, lisinopril 5, plavix 75, and 
metoprolol 25 XL daily. AA screening giving smoking revealed 
widening of abdominal aneurism, recommend follow up in one year. 
He was counseled on smoking cessation and seen by physical 
therapy prior to discharge for evaluation and MI education. 
  
Hyperlipidemia: LDL 154 on admission, started on atrovastatin 80 
as above. 

TRANSITIONAL ISSUES:
# Discharged on Plavix 75 to be continued for minimum of one 
year.
# discharged on lisinopril 5 and metop 25 XL to be titrated up 
as tolerated on an outpatient basis. 
# AAA screen showed enlargement of abdominal aorta to 2.8cm, 
recommend continued follow up outpatient and yearly abdominal 
ultrasounds for continued screening. 
# Please continue to encourage smoking cessation, discharged 
with nicotine patches.
# CODE: Full (CONFIRMED)    
# CONTACT: ___ ___  

 
Medications on Admission:
NONE
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
6. Nicotine Patch 14 mg TD QAM 
RX *nicotine 14 mg/24 hour apply to skin daily Disp #*5 Patch 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
STEMI

Secondary Diagnosis:
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure participating in your care here at ___ 
___. You came to us after a heart attack. 
You underwent cardiac catheterization which showed blockages in 
your vessel with a severe blockage in your right coronary 
artery. You received two stents in this artery and recovered 
without complication. You were started on a few new medications 
to protect your new stent and treat your heart disease. They are 
outlined below:

1. Aspirin EC 81 mg PO DAILY - This is a new medication to 
protect your heart vessels.

2. Atorvastatin 80 mg PO QPM - This is a new medication to treat 
your high cholesterol        

3. Clopidogrel 75 mg PO DAILY - This is a new medication to 
protect your new stent        

4. Lisinopril 5 mg PO DAILY - This is a new medication to treat 
your heart disease and blood pressure         

5. Metoprolol Succinate XL 25 mg PO DAILY - This is a new 
medication to treat your heart disease and control heart rate    
     

6. Nicotine Patch 14 mg TD QAM - this is a new medication to 
help you quit smoking.

Please take all your medications as prescribed and call the 
providers below to schedule follow up appointments within ___ 
weeks of discharge. 

Most importantly, please stop smoking, it is the best thing you 
can do to protect your heart from future damage. 

Thank you for choosing ___ for your healthcare needs.
Sincerely,
Your ___ Team
  

 
Followup Instructions:
___